** Name: SymmetricalOpAmp11

.MACRO SymmetricalOpAmp11 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=31e-6
mDiodeTransistorNmos2 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=31e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=35e-6
mDiodeTransistorPmos4 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=251e-6
mNormalTransistorNmos5 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=96e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=96e-6
mNormalTransistorPmos7 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=120e-6
mNormalTransistorPmos8 innerComplementarySecondStage inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=251e-6
mNormalTransistorPmos9 out innerComplementarySecondStage inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage pmos4 L=6e-6 W=165e-6
mNormalTransistorPmos10 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=120e-6
mNormalTransistorPmos11 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=406e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp11

** Expected Performance Values: 
** Gain: 54 dB
** Power consumption: 2.53701 mW
** Area: 3750 (mu_m)^2
** Transit frequency: 34.8931 MHz
** Transit frequency with error factor: 34.8932 MHz
** Slew rate: 36.6829 V/mu_s
** Phase margin: 67.6091°
** CMRR: 107 dB
** negPSRR: 54 dB
** posPSRR: 99 dB
** VoutMax: 3.62001 V
** VoutMin: 0.150001 V
** VcmMax: 4.02001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** DiodeTransistorNmos: 59.1001 muA
** DiodeTransistorNmos: 59.1001 muA
** NormalTransistorPmos: -118.2 muA
** NormalTransistorPmos: -59.1009 muA
** NormalTransistorPmos: -59.1009 muA
** NormalTransistorNmos: 184.46 muA
** NormalTransistorPmos: -184.459 muA
** DiodeTransistorPmos: -184.46 muA
** NormalTransistorPmos: -184.69 muA
** NormalTransistorNmos: 184.691 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.18201  V
** in1: 2.5  V
** in2: 2.5  V
** inStageBiasComplementarySecondStage: 4.23301  V
** inTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 3.05401  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.23001  V


.END