** Name: SymmetricalOpAmp14

.MACRO SymmetricalOpAmp14 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=73e-6
mDiodeTransistorNmos2 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=12e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=73e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=39e-6
mDiodeTransistorPmos5 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=83e-6
mDiodeTransistorPmos6 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=2e-6 W=83e-6
mNormalTransistorNmos7 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=62e-6
mNormalTransistorNmos8 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=62e-6
mNormalTransistorNmos9 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=189e-6
mNormalTransistorNmos10 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=189e-6
mNormalTransistorPmos11 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=135e-6
mNormalTransistorPmos12 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=4e-6 W=439e-6
mNormalTransistorPmos13 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=2e-6 W=83e-6
mNormalTransistorPmos14 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=135e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=540e-6
mNormalTransistorPmos16 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=83e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp14

** Expected Performance Values: 
** Gain: 93 dB
** Power consumption: 3.17201 mW
** Area: 6190 (mu_m)^2
** Transit frequency: 33.7981 MHz
** Transit frequency with error factor: 33.798 MHz
** Slew rate: 35.8789 V/mu_s
** Phase margin: 59.5877°
** CMRR: 146 dB
** negPSRR: 52 dB
** posPSRR: 65 dB
** VoutMax: 3.45001 V
** VoutMin: 0.330001 V
** VcmMax: 4.03001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorPmos: -114.107 muA
** DiodeTransistorNmos: 70.1791 muA
** DiodeTransistorNmos: 70.1791 muA
** NormalTransistorPmos: -140.359 muA
** NormalTransistorPmos: -70.1799 muA
** NormalTransistorPmos: -70.1799 muA
** NormalTransistorNmos: 179.988 muA
** NormalTransistorNmos: 179.989 muA
** NormalTransistorPmos: -179.987 muA
** DiodeTransistorPmos: -179.988 muA
** DiodeTransistorPmos: -179.987 muA
** NormalTransistorPmos: -179.988 muA
** NormalTransistorNmos: 179.988 muA
** NormalTransistorNmos: 179.989 muA
** DiodeTransistorNmos: 114.108 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.19601  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 0.740001  V
** inSourceStageBiasComplementarySecondStage: 3.94101  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 2.88201  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.23401  V
** innerTransconductance: 0.150001  V
** inner: 3.93701  V
** inner: 0.150001  V


.END