** Name: SymmetricalOpAmp186

.MACRO SymmetricalOpAmp186 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=20e-6
mDiodeTransistorNmos2 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=4e-6
mDiodeTransistorPmos3 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=19e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=113e-6
mNormalTransistorNmos6 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=4e-6 W=84e-6
mNormalTransistorNmos7 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=4e-6 W=84e-6
mNormalTransistorNmos8 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=113e-6
mNormalTransistorNmos9 out2FirstStage ibias sourceNmos sourceNmos nmos4 L=4e-6 W=204e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=7e-6
mNormalTransistorNmos11 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=289e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance inOutputStageBiasComplementarySecondStage FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=4e-6 W=45e-6
mNormalTransistorNmos13 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=47e-6
mNormalTransistorNmos14 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=47e-6
mNormalTransistorPmos15 inOutputStageBiasComplementarySecondStage outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=229e-6
mNormalTransistorPmos16 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=174e-6
mNormalTransistorPmos17 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=408e-6
mNormalTransistorPmos18 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=408e-6
mNormalTransistorPmos19 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=174e-6
mNormalTransistorPmos20 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=34e-6
mNormalTransistorPmos21 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=34e-6
mNormalTransistorPmos22 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=77e-6
mNormalTransistorPmos23 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=77e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp186

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 3.16301 mW
** Area: 6586 (mu_m)^2
** Transit frequency: 34.1151 MHz
** Transit frequency with error factor: 34.115 MHz
** Slew rate: 32.7867 V/mu_s
** Phase margin: 59.5877°
** CMRR: 142 dB
** negPSRR: 109 dB
** posPSRR: 65 dB
** VoutMax: 4.25 V
** VoutMin: 0.710001 V
** VcmMax: 4.81001 V
** VcmMin: 1.5 V


** Expected Currents: 
** NormalTransistorNmos: 3.50201 muA
** NormalTransistorNmos: 101.534 muA
** NormalTransistorPmos: -42.6799 muA
** NormalTransistorPmos: -71.7419 muA
** NormalTransistorPmos: -71.7429 muA
** NormalTransistorPmos: -71.7419 muA
** NormalTransistorPmos: -71.7429 muA
** NormalTransistorNmos: 143.482 muA
** NormalTransistorNmos: 143.481 muA
** NormalTransistorNmos: 71.7411 muA
** NormalTransistorNmos: 71.7411 muA
** NormalTransistorNmos: 165.677 muA
** NormalTransistorNmos: 165.676 muA
** NormalTransistorPmos: -165.676 muA
** NormalTransistorPmos: -165.675 muA
** NormalTransistorNmos: 165.677 muA
** NormalTransistorNmos: 165.676 muA
** NormalTransistorPmos: -165.676 muA
** NormalTransistorPmos: -165.675 muA
** DiodeTransistorNmos: 42.6791 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -3.50299 muA
** DiodeTransistorPmos: -101.533 muA


** Expected Voltages: 
** ibias: 0.558001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 1.11601  V
** inSourceTransconductanceComplementarySecondStage: 3.83801  V
** innerComplementarySecondStage: 0.812001  V
** out: 2.5  V
** out1FirstStage: 3.83801  V
** out2FirstStage: 3.68601  V
** outVoltageBiasXXpXX0: 4.26001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.324001  V
** innerTransistorStack1Load1: 4.40201  V
** innerTransistorStack2Load1: 4.40201  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.407001  V
** innerTransconductance: 4.40001  V
** inner: 0.407001  V
** inner: 4.40001  V


.END